US06858633B1
4-Fluoro-2-(4′amino-3′-bromophenyl)benzothiazole (Is)
Bromine (0.8 mmol) was added to a solution of the 4-fluoro-2-(4′-aminophenyl) benzothiazole prepared as described in Example 3 (0.8 mmol) in dichloromethane (20 ml) at 10° C. The resulting solution was stirred for 10 min, then poured into water/ice (10 ml). The organic layer was removed and washed with 10% sodium thiosulfate (10 ml), water (10 ml) and evaporated. The product was purified by column chromatography (dichloromethane) to leave a white solid.

reactant | Bromine | 0.8 mmol | BrBr | Br2
reactant | 4-fluoro-2-(4′-aminophenyl) benzothiazole | FC1=CC=CC2=C1N=C(S2)C2=CC=C(C=C2)N | C13H9FN2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Fluoro-2-(4′amino-3′-bromophenyl)benzothiazole | FC1=CC=CC2=C1N=C(S2)C2=CC(=C(C=C2)N)Br | C13H8BrFN2S
